US05561113
Stage A: Fmoc-Hyp(tBu)-OBzl
65 mmol of N,N-dicyclohexylcarbodiimide are added to a mixture containing 61 mmol of Fmoc-Hyp(tBu)-OH, 65 mmol of benzyl alcohol and 27 mmol of 4-dimethylaminopyridine in 150 ml of dichloromethane cooled on an ice bath. After one hour at 0° C., the mixture is adjusted to room temperature and left stirring for 18 hours. The dicyclohexylurea precipitate is filtered and the filtrate is evaporated. The residual oil is taken up in ethyl acetate. The solution is washed with 5% sodium bicarbonate, with 5% citric acid and then with a saturated sodium chloride solution. After drying and evaporation, the expected product is obtained in the form of an oil.

reactant | Fmoc-Hyp(tBu)-OH | 61 mmol | N1([C@H](C(=O)O)C[C@@H](OC(C)(C)C)C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H27NO5
reactant | benzyl alcohol | 65 mmol | C(C1=CC=CC=C1)O | C7H8O
catalyst | 4-dimethylaminopyridine | 27 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Fmoc-Hyp(tBu)-OBzl | N1([C@H](C(=O)OCC2=CC=CC=C2)C[C@@H](OC(C)(C)C)C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C31H33NO5
